US07868036B2
h) 7-(2-Bromomethyl3-methylbutyl)-1-(2-methoxyethoxy)naphthalene
A solution of 0.30 g of 2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutan-1-ol in 10 ml of dichloromethane at 0° C. is admixed with 0.29 g of triphenylphosphine and 0.20 g of N-bromosuccinimide. After 4 hours, the reaction mixture is concentrated by evaporation to a volume of approx. 3 ml, diluted with hexane, clarified by filtration and then concentrated fully by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60F).

reactant | 2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutan-1-ol | 0.30 g | COCCOC=1C=CC=C2C=CC(=CC12)CC(CO)C(C)C | C19H26O3
reactant | triphenylphosphine | 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-(2-Bromomethyl3-methylbutyl)-1-(2-methoxyethoxy)naphthalene | BrCC(CC1=CC=C2C=CC=C(C2=C1)OCCOC)C(C)C | C19H25BrO2
